US08003811B2
Step C: (S)-((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl) 5-(nitrooxy)hexanoate
The title compound was prepared by following the procedure for the synthesis of EXAMPLE 4, except that in Step F the reagent (S)-5,6-di(nitrooxy)hexanoic acid was replaced by (S)-5-(nitrooxy)hexanoic acid.

reactant | (S)-5,6-di(nitrooxy)hexanoic acid | [N+](=O)([O-])O[C@@H](CCCC(=O)O)CO[N+](=O)[O-] | C6H10N2O8
reactant | (S)-5-(nitrooxy)hexanoic acid | [N+](=O)([O-])O[C@H](CCCC(=O)O)C | C6H11NO5
product | (S)-((3R,3aR,6R,6aR)-6-hydroxyhexahydrofuro[3,2-b]furan-3-yl) 5-(nitrooxy)hexanoate | [N+](=O)([O-])O[C@H](CCCC(=O)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)O)C | C12H19NO8
